US08067607B2
Preparation of N-[(2-choropyridin-3-yl)methyl]-N-pyridin-3-ylpyridin-3-amine (1-2):
To a solution of N-pyridin-3-ylpyridin-3-amine (510 mg, 3 mmol) in anhydrous DMF (4.5 mL) was added 60% sodium hydride/mineral oil (169 mg, 4.2 mmol). After stirring at ambient temperature for 15 min., 3-(bromomethyl)-2-chloropyridine (677 mg, 3.28 mmol) (preparation described in U.S. Pat. No. 5,739,326) was added neat and the action was stirred for ˜2 hours. The reaction was diluted with ethyl acetate, washed with NaHCO3 solution, then water, and the organic layer was dried over anhydrous sodium sulfate, filtered, and the solvent evaporated. The residue was purified by silica gel chromato-graphy eluting with a 20-90% acetonelhexane gradient to give the purified product which upon trituration with diethyl ether gave the title compound as a tan solid (684 mg, 77% yield). 1H-NMR (500 MHz , CDCl3): δ 8.40 (2H, d, J=2.7 Hz), 8.34 (1H, d, J=4.6 Hz), 8.30 (2H, d, J=4.6 Hz), 7.69 (1H, d, J=7.8 Hz), 7.33-7.35 (2H, br d, J=˜8.3 Hz), 7.20-7.26 (4H, m), 5.04 (2H, s). m/e (m+1): 297.0

reactant | N-pyridin-3-ylpyridin-3-amine | 3 mmol, 510 mg | N1=CC(=CC=C1)NC=1C=NC=CC1 | C10H9N3
reactant | sodium hydride | [H-].[Na+]
reactant | 3-(bromomethyl)-2-chloropyridine | 3.28 mmol, 677 mg | BrCC=1C(=NC=CC1)Cl | C6H5BrClN
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(2-choropyridin-3-yl)methyl]-N-pyridin-3-ylpyridin-3-amine | 684 mg, 77% yield | ClC1=NC=CC=C1CN(C=1C=NC=CC1)C=1C=NC=CC1 | C16H13ClN4
